US03974158
A solution of 2-ethoxyaniline (4.8 g.) and 4-n-propyl-2-toluene-p-sulphonyloxymethylmorpholine (10 g.) in xylene (50 ml.) is heated under reflux in an atmosphere of nitrogen for 60 hours. A resinous solid separates from the solvent which is distilled under reduced pressure. The residual sticky solid is washed with ether to give a yellow solid which is crystallised from methanol/ether to give 2-(2-ethoxyanilino)methyl-4-propylmorpholine toluene-p-sulphonate, m.p. 169°-172°C.

reactant | 2-ethoxyaniline | 4.8 g | C(C)OC1=C(N)C=CC=C1 | C8H11NO
reactant | 4-n-propyl-2-toluene-p-sulphonyloxymethylmorpholine | 10 g | C(CC)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C15H23NO4S
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-ethoxyanilino)methyl-4-propylmorpholine toluene-p-sulphonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C)OC1=C(NCC2CN(CCO2)CCC)C=CC=C1 | InChI=1S/C16H26N2O2.C7H8O3S/c1-3-9-18-10-11-20-14(13-18)12-17-15-7-5-6-8-16(15)19-4-2;1-6-2-4-7(5-3-6)11(8,9)10/h5-8,14,17H,3-4,9-13H2,1-2H3;2-5H,1H3,(H,8,9,10)
